2109-04-26 06:53:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
   EGD with large gastric varix injected 2cc, 6cc, with bleeding
   (hematemesis). Then appeared to stop. Crit from 29.8 to 28.4, NG tube
   with dark blood, clots. Patient looked unwell. BP transiently dropped
   to 80's. Patient was typed and cross matched. Not tachycardic. One
   liter of NS. 2 units of blood given. IR contact[**Name (NI) **] for urgent TIPS.
   .
   Patient intubated prior to TIPS.
   .
   TIPS: initial porto-systemic gradient of 22. Brought down to 6 after
   TIPS. Saw esophageal varices. Pre-TIPS saw splenorenal shunt. Slower
   filling after tips. Would consider embolizing this in the future.
   This AM, patient found to be actively bleeding. 500cc blood via NG
   tube. Still intubated. Patient not interacting, arousable to pain.
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-25**] 06:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2109-4-25**] 08:30 PM
   Fentanyl - [**2109-4-25**] 08:30 PM
   Pantoprazole (Protonix) - [**2109-4-25**] 10:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-26**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 55 (54 - 77) bpm
   BP: 149/55(89) {149/55(89) - 187/71(116)} mmHg
   RR: 12 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
           Total In:
                                                                  3,057 mL
                                                                  2,464 mL
   PO:
           TF:
   IVF:
                                                                  1,834 mL
                                                                  2,020 mL
   Blood products:
                                                                  1,223 mL
                                                                    444 mL
   Total out:
                                                                  1,100 mL
                                                                  1,970 mL
   Urine:
                                                                    650 mL
                                                                    460 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  1,957 mL
                                                                    495 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 529 (529 - 529) mL
   PS : 12 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.39/52/99.[**Numeric Identifier 508**]/28/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General: Arousable to pain, ill appearing. Intubated and sedated.
   Jaundiced.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, distended, non-tender, bowel sounds present, no rebound
   tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Unable to assess.
   skin: palmar erythema, numerous tatoos, telangiectasia. No caput
   Labs / Radiology
   86 K/uL
   10.3 g/dL
   147 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   3 mg/dL
   102 mEq/L
   136 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2109-4-25**]  05:24 PM
                             [**2109-4-25**]  08:30 PM
                             [**2109-4-25**]  10:10 PM
                             [**2109-4-25**]  10:45 PM
                             [**2109-4-26**]  12:15 AM
                             [**2109-4-26**]  01:22 AM
                             [**2109-4-26**]  02:49 AM
                             [**2109-4-26**]  03:22 AM
                             [**2109-4-26**]  05:37 AM
   WBC
   6.7
   6.6
   Hct
   29.8
   28.4
   26.9
   29.3
   33
   30.1
   Plt
   77
   86
   Cr
   0.6
   TCO2
   24
   30
   29
   33
   Glucose
   130
   147
   Other labs: PT / PTT / INR:16.9/40.6/1.5, Lactic Acid:1.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:5.3 mg/dL
   Imaging: RUQ US
   IMPRESSION:
   1. Appropriate waveforms and color flow in the hepatic arteries, main
   portal
   vein, right anterior and right posterior portal veins, and hepatic
   veins.
   2. Left portal vein is not definitively identified and the structure
   that
   seemingly corresponds to the left portal vein has a suggestion of
   reversal of
   the flow. This may be due to portal hypertension.
   3. Common bile duct measures 11 mm.
   4. Cholelithiasis without evidence of acute cholecystitis.
   5. Trace ascites.
   6. Splenomegaly and cirrhotic-appearing liver.
   Assessment and Plan
   58 yo M with a history of cirrhosis secondary to alcohol, with known
   esophageal and gastric varices, s/p banding in [**2109-1-27**], who
   presented with hematemesis.
   .
   # Hematemesis: Secondary to variceal bleeding. Now s/p EGD and TIPS.
   Having repeat bleeding this AM. Concern for obstruction of TIPS vs. old
   bleed.
   -obtain repeat abdominal US with dopplers to eval patency of TIPS
   -transfuse 4 units PRBCs and 2 units FFP now
   -continue octreotide gtt, IV PPI [**Hospital1 **]
   -check HCT q2-3h
   -active T&S. Transfuse for HCT<25, per liver recs
   -Cipro 400mg IV bid
   -2 large bore PIVs
   -NPO
   -f/u liver recs
   -hold Nadolol and spironolactone in the setting of acute GI bleed
   -f/u liver recs
   .
   #  Alcohol abuse: Unclear whether patient has a history of DTs,
   seizures, passed out.
   -Ativan PRN CIWA scale > 10
   -Social work consult
   .
   # Hypothyroidism: per report, but not on Levothyroxine
   -will check TSH and assess
   -no sx of hypothryoidism at this time.
   .
   #  COPD: Continue albuterol and duoneb per outpatient regimen
   .
   # Chronic back pain: D/c narcotics given sedation.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots, IV PPI
   .
   # Access: PIV x2, R IJ, L subclavian
   .
   # Code: Patient is DNR only.   Amenable to intubation in the setting of
   procedure.
   .
   # Communication: Patient
   daughter [**Name (NI) **] care proxy
   .
   # Disposition: pending resolution of bleed
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2109-4-25**] 04:52 PM
   18 Gauge - [**2109-4-25**] 04:53 PM
   Arterial Line - [**2109-4-25**] 10:46 PM
   Multi Lumen - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-04-27 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2109-4-26**] 10:47 AM
   liver s/p tips
   -Patient with second episode of hematemesis, 200cc, more red.  Advised
   by hepatology fellow to not give more blood, VSS, hct stable
   -TIPS redo procedure done by IR, embolized esophageal varices
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-27**] 05:24 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-27**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-27**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 61 (50 - 65) bpm
   BP: 157/55(91) {132/44(79) - 192/72(122)} mmHg
   RR: 24 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  7,194 mL
                                                                    522 mL
   PO:
             TF:
   IVF:
                                                                  4,905 mL
                                                                    522 mL
   Blood products:
                                                                  1,868 mL
   Total out:
                                                                  6,990 mL
                                                                  1,460 mL
   Urine:
                                                                  4,560 mL
                                                                  1,440 mL
   NG:
                                                                    920 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    204 mL
                                                                   -938 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (478 - 578) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.50/33/102/25/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General: Arousable to pain, ill appearing. Intubated and sedated.
   Jaundiced.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, distended, non-tender, bowel sounds present, no rebound
   tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Unable to assess.
   skin: palmar erythema, numerous tatoos, telangiectasia. No caput
   Labs / Radiology
   85 K/uL
   12.7 g/dL
   133 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   35.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-4-26**]  02:49 AM
                             [**2109-4-26**]  03:22 AM
                             [**2109-4-26**]  05:37 AM
                             [**2109-4-26**]  09:44 AM
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
   WBC
   6.6
   5.8
   5.7
   6.3
   9.5
   Hct
   30.1
   31.2
   35.5
   33.8
   35.7
   35.8
   Plt
   86
   77
   72
   66
   85
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   29
   33
   28
   27
   Glucose
   147
   118
   135
   127
   138
   133
   Other labs: PT / PTT / INR:18.9/36.1/1.7, ALT / AST:106/227, Alk Phos /
   T Bili:97/6.2, Lactic Acid:2.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58 yo M with a history of cirrhosis secondary to alcohol, with known
   esophageal and gastric varices, s/p banding in [**2109-1-27**], who
   presented with hematemesis, now s/p TIPS and embolization of esophageal
   varices.
   .
   # Hematemesis: Secondary to variceal bleeding.  Two episodes of
   hematemesis overnight.  Liver feels blood is old blood from previous
   variceal bleed. Now s/p EGD and TIPS with embolization of varices.
   Could not evaluate patency of TIPS with ultrasound due to shadowing.
   Hct currently stable, no further episodes of hematemesis overnight
   after TIPS redo IR procedure.
   -continue octreotide gtt, IV PPI [**Hospital1 **]
   -active T&S. Transfuse for HCT<25, per liver recs
   -Cipro 400mg IV bid
   -2 large bore PIVs
   -NPO
   -f/u liver recs
   -hold Nadolol and spironolactone in the setting of acute GI bleed
   .
   #  Alcohol abuse: Unclear whether patient has a history of DTs,
   seizures, passed out.
   -Ativan PRN CIWA scale > 10
   -Social work consult
   .
   # Hypothyroidism: per report, but not on Levothyroxine
   -will check TSH and assess
   -no sx of hypothryoidism at this time.
   .
   #  COPD: Continue albuterol and duoneb per outpatient regimen
   .
   # Chronic back pain: D/c narcotics given sedation.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots, IV PPI
   .
   # Access: PIV x2, R IJ, L subclavian
   .
   # Code: Patient is DNR only.   Amenable to intubation in the setting of
   procedure.
   .
   # Communication: Patient
   daughter [**Name (NI) **] care proxy
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-25**] 04:31 PM
   16 Gauge - [**2109-4-25**] 04:52 PM
   Arterial Line - [**2109-4-25**] 10:46 PM
   Multi Lumen - [**2109-4-25**] 11:45 PM
   [**First Name4 (NamePattern1) 342**] [**Last Name (NamePattern1) **] - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-04-27 10:29:00 Physician Attending Progress Note
Chief Complaint: variceal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Went back to IR last evening for embolization - no revision of TIPS by
   report but did embo his gastric varix
   24 Hour Events:
 ULTRASOUND - At [**2109-4-26**] 10:47 AM
   liver s/p tips
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-27**] 05:24 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-27**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-27**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 57 (55 - 65) bpm
   BP: 140/55(86) {132/44(79) - 172/64(105)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                  7,194 mL
                                                                    619 mL
   PO:
             TF:
   IVF:
                                                                  4,905 mL
                                                                    619 mL
   Blood products:
                                                                  1,868 mL
   Total out:
                                                                  6,990 mL
                                                                  2,060 mL
   Urine:
                                                                  4,560 mL
                                                                  2,040 mL
   NG:
                                                                    920 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    204 mL
                                                                 -1,441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (412 - 578) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.50/33/102/25/3
   Ve: 11.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Gen: intubated and sedated
   CV: RR
   Chest: CTA
   Abd: soft +BS
   Ext: tattoos
   Neuro: PERRL but 5 mm bilat
   Labs / Radiology
   12.7 g/dL
   85 K/uL
   133 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   35.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-4-26**]  02:49 AM
                             [**2109-4-26**]  03:22 AM
                             [**2109-4-26**]  05:37 AM
                             [**2109-4-26**]  09:44 AM
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
   WBC
   6.6
   5.8
   5.7
   6.3
   9.5
   Hct
   30.1
   31.2
   35.5
   33.8
   35.7
   35.8
   Plt
   86
   77
   72
   66
   85
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   29
   33
   28
   27
   Glucose
   147
   118
   135
   127
   138
   133
   Other labs: PT / PTT / INR:18.9/36.1/1.7, ALT / AST:106/227, Alk Phos /
   T Bili:97/6.2, Lactic Acid:2.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 .H/O ALCOHOL ABUSE
 .H/O DELIRIUM / CONFUSION
 GASTRIC VARICES / PORTAL HYPERTENSIVE GASTROPATHY
 CIRRHOSIS OF LIVER, ALCOHOLIC
   58 yr old cirrhotic with variceal bleed s/p TIPs and IR embo if varices
   1. Variceal bleed: Now stable x 12 hours from HCT and hemodynamics.
   Trend [**Hospital1 7**].
   2. Airway protection/mech Vent: Remains intubated- will speak with
   Liver team but if no plan for re intervention will SBT and try to
   extubated. Is a difficult airway so will have anesthesia standby
   3. ETOH abuse: prn Ativan, CIWA when ext.
   In terms of communication need to speak further with daughter- she had
   been clear that he was DNR/DNI and agreed to short term intubation
   Would need to clarify that if he fails extubation for sedation,
   rebleed, would she refuse re intubation and furtjer intervention. She
   shold be here by 4 PM
   ICU Care
   Nutrition: start TF after extubation
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-25**] 04:31 PM
   16 Gauge - [**2109-4-25**] 04:52 PM
   Arterial Line - [**2109-4-25**] 10:46 PM
   Multi Lumen - [**2109-4-25**] 11:45 PM
   [**First Name4 (NamePattern1) 342**] [**Last Name (NamePattern1) **] - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex,
   Comments:
   Communication:  see above
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40

2109-04-28 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated at 6:30pm [**4-27**]
   Multiple melanous stools overnight
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-28**] 06:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-28**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-28**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 55 (55 - 79) bpm
   BP: 129/41(63) {120/41(63) - 154/71(89)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,564 mL
                                                                  1,009 mL
   PO:
             TF:
   IVF:
                                                                  1,344 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                    490 mL
   Urine:
                                                                  3,730 mL
                                                                    460 mL
   NG:
                                                                     20 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,186 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (412 - 495) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.49/30/130/27/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: Arousable to pain, ill appearing. Jaundiced.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhonchi bilaterally on anterior exam
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, distended, non-tender, bowel sounds present, no rebound
   tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Encephalopathic, agitated.
   skin: palmar erythema, numerous tatoos, telangiectasia. No caput
   Labs / Radiology
   95 K/uL
   11.7 g/dL
   117 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   33.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2109-4-26**]  05:37 AM
                             [**2109-4-26**]  09:44 AM
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
                             [**2109-4-27**]  12:11 PM
                             [**2109-4-28**]  02:13 AM
   WBC
   5.8
   5.7
   6.3
   9.5
   11.9
   Hct
   31.2
   35.5
   33.8
   35.7
   35.8
   33.3
   Plt
   77
   72
   66
   85
   95
   Cr
   0.6
   0.6
   0.7
   0.5
   TCO2
   33
   28
   27
   23
   Glucose
   118
   135
   127
   138
   133
   117
   Other labs: PT / PTT / INR:18.2/35.1/1.7, ALT / AST:106/227, Alk Phos /
   T Bili:97/6.2, Lactic Acid:2.2 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58 yo M with a history of cirrhosis secondary to alcohol, with known
   esophageal and gastric varices, s/p banding in [**2109-1-27**], who
   presented with hematemesis, now s/p TIPS and embolization of esophageal
   varices.
   .
   # Hematemesis: Secondary to variceal bleeding.  Now s/p EGD and TIPS
   with embolization of varices.  Could not evaluate patency of TIPS with
   ultrasound due to shadowing.  Hct currently stable, no further episodes
   of hematemesis overnight after TIPS redo IR procedure.
   -d/c ocreotide gtt per liver recs
   -continue IV PPI [**Hospital1 **]
   -active T&S. Transfuse for HCT<25, per liver recs
   -Cipro 400mg IV bid
   -2 trauma lines
   -NPO
   -f/u liver recs
   -hold Nadolol and spironolactone in the setting of acute GI bleed
   -continue lactulose and rifaximin
   -consider zyprexa if becomes increasingly agitated
   .
   # Leukocytosis: WBC 11.9, up from 6.3 two days ago. Afebrile overnight.
   CXR from [**4-27**] shows potential LLL consolidation and patchy opacity at R
   base.  Likely aspirated given NG tube placement and EGD. Consider
   treatment for aspiration pneumonia with Ceftriaxone and Flagyl. D/c
   above cipro.
   .
   #  Alcohol abuse: Unclear whether patient has a history of DTs,
   seizures, passed out. Hasn
t had CIWA >10 since ICU stay. D/c CIWA
   scale. Consider withdrawal if patient increasingly agitated.
   -Social work consult
   .
   # Hypothyroidism: Continue synthroid 25mcg daily.
   .
   #  COPD: Continue albuterol and duoneb per outpatient regimen
   .
   # Chronic back pain: D/c
ed narcotics given sedation.
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI
   .
   # Access: R IJ, L subclavian
HCP wants lines removed.
   .
   # Code: Patient is DNR/DNI.
   .
   # Communication: Patient
   daughter [**Name (NI) **] care proxy
   .
   # Disposition: Will speak with HCP regarding goals of care. Yesterday
   did not want further transfusions, and wanted lines removed. Will
   confirm this with HCP today. If no pressors, no further intubation, and
   no transfusions, likely can be d/c-ed to floor given no indication for
   ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-25**] 04:31 PM
   16 Gauge - [**2109-4-25**] 04:52 PM
   Multi Lumen - [**2109-4-25**] 11:45 PM
   [**First Name4 (NamePattern1) 342**] [**Last Name (NamePattern1) **] - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-04-28 11:07:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-4-27**] 06:26 PM
 ARTERIAL LINE - STOP [**2109-4-27**] 09:04 PM
   Extubated last PM- no resp distress but does need sig O2 and suctioning
   and has very altered mental status.
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-28**] 06:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-28**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-28**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 72 (55 - 79) bpm
   BP: 141/64(82) {120/41(63) - 154/89(102)} mmHg
   RR: 27 (20 - 34) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 68 Inch
             Total In:
                                                                  1,565 mL
                                                                  1,692 mL
   PO:
             TF:
   IVF:
                                                                  1,345 mL
                                                                  1,372 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                    790 mL
   Urine:
                                                                  3,730 mL
                                                                    760 mL
   NG:
                                                                     20 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,185 mL
                                                                    902 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (445 - 488) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 88%
   ABG: 7.49/30/130/27/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen; lying in bedm agitate in 4 point restraints opens eyes but unable
   to answer questions
   HEENT : NGT
   CV: RR
   Chest coase breath sounds bilat- dimished at bases
   Abd distened +BS
   Ext: trace edema
   Neuro: agitated, moving all 4 ext, not able to focus or answer any
   questions. PERRL
   Labs / Radiology
   11.7 g/dL
   95 K/uL
   117 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   33.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2109-4-26**]  05:37 AM
                             [**2109-4-26**]  09:44 AM
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
                             [**2109-4-27**]  12:11 PM
                             [**2109-4-28**]  02:13 AM
   WBC
   5.8
   5.7
   6.3
   9.5
   11.9
   Hct
   31.2
   35.5
   33.8
   35.7
   35.8
   33.3
   Plt
   77
   72
   66
   85
   95
   Cr
   0.6
   0.6
   0.7
   0.5
   TCO2
   33
   28
   27
   23
   Glucose
   118
   135
   127
   138
   133
   117
   Other labs: PT / PTT / INR:18.2/35.1/1.7, ALT / AST:106/227, Alk Phos /
   T Bili:97/6.2, Lactic Acid:2.2 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58 yr old cirrhotic with variceal bleed s/p TIPs and IR embo of varices
   1. Variceal bleed: Now stable x 30 hours from HCT and hemodynamics.
   Trend [**Hospital1 7**]. D/C Octreotide
   2. Resp Distress: s/p extubation
 oxygenating reasonably but likely
   sig. aspiration with multifocal infiltrates. Repeat CXR post ext and
   start ABX so long as daughter is amenable.
   3., Mental Status: encephalopathy plus ICU delirium and possible ETOH
   and narcotic withdrawl
 Lactulose rifaximin, serial exams.  CIWA scale
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  SSRI
   Lines:
   20 Gauge - [**2109-4-25**] 04:31 PM
   16 Gauge - [**2109-4-25**] 04:52 PM
   Multi Lumen - [**2109-4-25**] 11:45 PM
   [**First Name4 (NamePattern1) 342**] [**Last Name (NamePattern1) **] - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   Communication:  with daughter as documented yesterday- she would like
   to have CVLs removed as is clear. It appears she would like to proceed
   to an even less aggressive course
 perhaps with no blood transfusions
   and ABX- this all needs to be reviewed and clarified but if so can be
   transferred to medical floor
 may need sitter
   Code status: DNR (do not resuscitate)/DNI
   Disposition :ICU/floor
   Total time spent: 35 minutes

2109-04-29 07:10:00 Physician Resident Progress Note
24 Hour Events:
   Primary team spoke with daughter. Doesn't want further blood products.
   Wanted to keep central lines in. Started Ctx, Flagyl for aspiration
   pneumonia.
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-28**] 06:30 AM
   Ceftriaxone - [**2109-4-28**] 02:16 PM
   Metronidazole - [**2109-4-29**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-29**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 58 (50 - 78) bpm
   BP: 160/66(89) {115/43(62) - 160/89(102)} mmHg
   RR: 19 (18 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,347 mL
                                                                    729 mL
   PO:
             TF:
   IVF:
                                                                  2,547 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    895 mL
   Urine:
                                                                  1,410 mL
                                                                    345 mL
   NG:
                                                                     30 mL
                                                                    150 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    907 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General: Arousable to pain, ill appearing. Jaundiced.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhonchi bilaterally on anterior exam
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, distended, non-tender, bowel sounds present, no rebound
   tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Encephalopathic, agitated.
   skin: palmar erythema, numerous tatoos, telangiectasia. No caput
   Labs / Radiology
   71 K/uL
   11.0 g/dL
   115 mg/dL
   0.5 mg/dL
   25 mEq/L
   2.9 mEq/L
   22 mg/dL
   109 mEq/L
   143 mEq/L
   31.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
                             [**2109-4-27**]  12:11 PM
                             [**2109-4-28**]  02:13 AM
                             [**2109-4-28**]  04:30 PM
                             [**2109-4-29**]  03:39 AM
   WBC
   5.7
   6.3
   9.5
   11.9
   10.3
   Hct
   35.5
   33.8
   35.7
   35.8
   33.3
   33.3
   31.0
   Plt
   72
   66
   85
   95
   71
   Cr
   0.6
   0.7
   0.5
   0.5
   TCO2
   28
   27
   23
   Glucose
   135
   127
   138
   133
   117
   115
   Other labs: PT / PTT / INR:17.6/35.0/1.6, ALT / AST:492/498, Alk Phos /
   T Bili:113/5.0, Lactic Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:289 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   58 yo M with a history of cirrhosis secondary to alcohol, with known
   esophageal and gastric varices, s/p banding in [**2109-1-27**], who
   presented with hematemesis, now s/p TIPS and embolization of esophageal
   varices.
   .
   # Hematemesis: Secondary to variceal bleeding.  Now s/p EGD and TIPS
   with embolization of varices.  Could not evaluate patency of TIPS with
   ultrasound due to shadowing.  Hct currently stable, no further episodes
   of hematemesis overnight after TIPS redo IR procedure.
   - ocreotide gtt d/c
ed per liver recs
   -continue IV PPI [**Hospital1 **]
   -active T&S. Transfuse for HCT<25, per liver recs
   -2 trauma lines
   -NPO
   -f/u liver recs
   -hold Nadolol and spironolactone in the setting of acute GI bleed
   -continue lactulose and rifaximin
   -consider zyprexa if becomes increasingly agitated
   .
   # Leukocytosis: WBC 10.3, up from 6.3 two days ago. Afebrile overnight.
   CXR from [**4-27**] shows potential LLL consolidation and patchy opacity at R
   base.  Likely aspirated given NG tube placement and EGD.
   -  Treat aspiration pneumonia with Ceftriaxone and Flagyl.
   .
   #  Alcohol abuse: Unclear whether patient has a history of DTs,
   seizures, passed out. Hasn
t had CIWA >10 since ICU stay. D/c CIWA
   scale. Consider withdrawal if patient increasingly agitated.
   -Social work consult
   .
   # Hypothyroidism: Continue synthroid 25mcg daily.
   .
   #  COPD: Continue albuterol and duoneb per outpatient regimen
   .
   # Chronic back pain: D/c
ed narcotics given sedation.
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI
   .
   # Access: R IJ, L subclavian
HCP wants lines removed.
   .
   # Code: Patient is DNR/DNI.
   .
   # Communication: Patient
   daughter [**Name (NI) **] care proxy
   .
   # Disposition: Will speak with HCP regarding goals of care. No further
   transfusions, family discussion today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-25**] 04:31 PM
   Multi Lumen - [**2109-4-25**] 11:45 PM
   [**First Name4 (NamePattern1) 342**] [**Last Name (NamePattern1) **] - [**2109-4-26**] 03:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-04-30 07:17:00 Physician Resident Progress Note
Chief Complaint: hematemesis
   24 Hour Events:
 [**Location (un) 342**] LINE - STOP [**2109-4-29**] 07:01 PM
 MULTI LUMEN - STOP [**2109-4-29**] 07:02 PM
   Family meeting held with daughter.  Concluded that patient should have
   no more care other than treating his hepatic encephalopathy (i.e.
   continuing lactulose, rifaximin, but discontinuing all antibiotics).
   Lines discontinued. One peripheral IV placed.
   Patient desated to 80s this morning with movement.
   Allergies:
   Nsaids
   Unknown;
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-4-28**] 06:30 AM
   Ceftriaxone - [**2109-4-28**] 02:16 PM
   Metronidazole - [**2109-4-29**] 02:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-30**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 62 (41 - 70) bpm
   BP: 140/55(76) {127/42(62) - 163/67(85)} mmHg
   RR: 36 (17 - 36) insp/min
   SpO2: 80%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 68.3 kg
   Height: 68 Inch
                  Total In:
                                                                  1,258 mL
                  PO:
                  TF:
   IVF:
                                                                  1,138 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    830 mL
   Urine:
                                                                  1,075 mL
                                                                    380 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,067 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 80%
   ABG: ////
   Physical Examination
   General: Arousable, but unable to interact, ill appearing. Jaundiced.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhonchi bilaterally on anterior exam
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, distended, non-tender, bowel sounds present, no rebound
   tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Encephalopathic, agitated.
   skin: palmar erythema, numerous tatoos, telangiectasia. No caput
   Labs / Radiology
   71 K/uL
   11.0 g/dL
   115 mg/dL
   0.5 mg/dL
   25 mEq/L
   2.9 mEq/L
   22 mg/dL
   109 mEq/L
   143 mEq/L
   31.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2109-4-26**]  02:54 PM
                             [**2109-4-26**]  03:19 PM
                             [**2109-4-26**]  08:00 PM
                             [**2109-4-26**]  08:05 PM
                             [**2109-4-27**]  02:00 AM
                             [**2109-4-27**]  02:10 AM
                             [**2109-4-27**]  12:11 PM
                             [**2109-4-28**]  02:13 AM
                             [**2109-4-28**]  04:30 PM
                             [**2109-4-29**]  03:39 AM
   WBC
   5.7
   6.3
   9.5
   11.9
   10.3
   Hct
   35.5
   33.8
   35.7
   35.8
   33.3
   33.3
   31.0
   Plt
   72
   66
   85
   95
   71
   Cr
   0.6
   0.7
   0.5
   0.5
   TCO2
   28
   27
   23
   Glucose
   135
   127
   138
   133
   117
   115
   Other labs: PT / PTT / INR:17.6/35.0/1.6, ALT / AST:492/498, Alk Phos /
   T Bili:113/5.0, Lactic Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:289 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   58 yo M with a history of cirrhosis secondary to alcohol, with known
   esophageal and gastric varices, s/p banding in [**2109-1-27**], who
   presented with hematemesis, now s/p TIPS and embolization of esophageal
   varices.
   .
   # Hematemesis: Secondary to variceal bleeding.  Now s/p EGD and TIPS
   with embolization of varices.  Could not evaluate patency of TIPS with
   ultrasound due to shadowing.  Hct currently stable, no further episodes
   of hematemesis overnight after TIPS redo IR procedure. Given goals of
   care, we are not checking labs, and no further blood products will be
   given.
   -continue IV PPI [**Hospital1 **]
   -active T&S. Transfuse for HCT<25, per liver recs
   -Patient has 1 PIV in place
   -NPO
   -f/u liver recs
   -continue lactulose and rifaximin
   -haldol PRN agitation
   .
   # Leukocytosis: no longer checking labs. Abx discontinued [**4-29**] given
   goals of care toward comfort
   .
   #  Alcohol abuse: Unclear whether patient has a history of DTs,
   seizures, passed out. Hasn
t had CIWA >10 since ICU stay. D/c CIWA
   scale. Consider withdrawal if patient increasingly agitated.
   -Social work consult
   .
   # Hypothyroidism: Discontinued synthroid
   .
   #  COPD: Discontinued albuterol and duoneb
   .
   # Chronic back pain: Ativan and Morphine IV PRN pain
   .
   # FEN: No IVF, replete electrolytes, NPO. Nutrition consult for tube
   feeds.
   .
   # Prophylaxis: pneumoboots, IV PPI
   .
   # Access: PIV x1
   .
   # Code: Patient is DNR/DNI. Goals of care toward comfort. But
   continuing Lactulose and Rifaximin for encephalopathy. No blood draws,
   no fluid rescusitation. No blood products.
   .
   # Communication: Patient
   daughter [**Name (NI) **] care proxy
   .
   # Disposition: Will try to get patient to [**Hospital 2408**] hospital to be closer
   to daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-29**] 07:00 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   with assessment and plan as outlined.  Family meeting yesterday
 clear
   expression that Mr. [**Known lastname 7275**] was reluctant to be hospitalized again and
   would certainly not want additional procedures.  He is very confused
   this morning and we are continuing treatment for his encephalopathy but
   we will not escalate care.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2109-4-30**] 14:05 ------